US09428528B2
Step 7 Preparation of (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(3-(methylsulfonamidomethyl)isoxazol-5-yl)phenyl)oxazolidine-3-carboxylate
To a methylene chloride (10 ml) solution of (4S,5R)-tert-butyl 5-(4-(3-(aminomethyl)isoxazol-5-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidine-3-carboxylate (270 mg, 0.66 mmol) that had been cooled to 0° C. is added mesyl chloride (83 mg, 0.73 mmol) and diisopropylethylamine (94 mg, 0.73 mmol) sequentially. The reaction is stirred at 0° C. for thirty minutes then quenched with water (2 ml). The quenched reaction is stirred for thirty minutes at room temperature. The organic phase is dried over sodium sulfate and concentrated to give the title compound (310 mg): m/z (CI) 484 ([M+H]+.

reactant | (4S,5R)-tert-butyl 5-(4-(3-(aminomethyl)isoxazol-5-yl)phenyl)-4-(fluoromethyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.66 mmol, 270 mg | NCC1=NOC(=C1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CF | C21H28FN3O4
reactant | mesyl chloride | 0.73 mmol, 83 mg | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | diisopropylethylamine | 0.73 mmol, 94 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (4S,5R)-tert-butyl 4-(fluoromethyl)-2,2-dimethyl-5-(4-(3-(methylsulfonamidomethyl)isoxazol-5-yl)phenyl)oxazolidine-3-carboxylate | 310 mg | FC[C@H]1N(C(O[C@@H]1C1=CC=C(C=C1)C1=CC(=NO1)CNS(=O)(=O)C)(C)C)C(=O)OC(C)(C)C | C22H30FN3O6S
